US04697033
A mixture of 4-(1-methylpropoxy)phenol (9.2 mmol), methyl 2-chloroethylcarbamate (11.9 mmol), and potassium carbonate (18.4 mmol) in 20 ml of dimethylformamide (DMF) is heated at 85° for 18 hours. The reaction mixture is cooled to room temperature (RT), poured into water and extracted with ether. The combined ether extracts are washed with water until neutral, followed with brine and dried over calcium sulfate. The solvent is removed in vacuo and the residue is placed under high vacuum at 80° for ca. 2 hours to remove the excess methyl 2-chloroethylcarbamate. Purification by preparative thin layer chromatography (prep. TLC) gives methyl N-{2-[4-(1-methylpropoxy)phenoxy]ethyl}carbamate.

reactant | 4-(1-methylpropoxy)phenol | 9.2 mmol | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | methyl 2-chloroethylcarbamate | 11.9 mmol | ClCCNC(OC)=O | C4H8ClNO2
reactant | potassium carbonate | 18.4 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl N-{2-[4-(1-methylpropoxy)phenoxy]ethyl}carbamate | CC(CC)OC1=CC=C(OCCNC(OC)=O)C=C1 | C14H21NO4
